US07384934B2
6-Fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride
Stir 2-(5-fluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile (113 g, 0.408 mol) as a suspension in EtOH (1.1 L) at ambient temperature. Add aqueous 6N HCl (1.1 L) and tin (II) chloride (232 g, 1.22 mol) with stirring. Heat to gentle reflux (85° C.) for 3-4 hours, and then allow cooling to ambient temperature. Filter the crude product and rinse with 1:1/EtOH:6N HCl, then deionized water, and dry in a vacuum oven at 50° C. to constant weight. Stir the crude product (139 g) as a suspension in aqueous 1N HCl (6 L) at gentle reflux (95° C.) for 2 hours, and then allow cooling to ambient temperature. Filter the product and rinse with 1N HCl and water, then dry at 50° C. to give 101 g (87%) the title compound: 1H NMR (400 MHz, DMSO-d6) δ 11.33 (bs, 1H), 9.80 (s, 1H), 9.16 (bs, 1H), 8.88 (bs, 1H), 6.99 (m, 1H), 6.89 (m, 1H), 6.84 (s, 1H), 2.28 (s, 3H). HRMS (ES) exact mass M+H calcd for C12H11ClFN3S 248.0658; found 248.0657.

reactant | 2-(5-fluoro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 0.408 mol, 113 g | FC=1C=CC(=C(C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H8FN3O2S
reactant | HCl | 6N, 1.1 L | Cl | ClH
reactant | tin (II) chloride | 1.22 mol, 232 g | [Sn](Cl)Cl
solvent | EtOH | 1.1 L | CCO | C2H6O
product | 6-Fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 101 g, 87% | Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N)C)C1 | InChI=1S/C12H10FN3S.ClH/c1-6-4-8-11(14)15-9-3-2-7(13)5-10(9)16-12(8)17-6;/h2-5,16H,1H3,(H2,14,15);1H
